US04021479
4-(2'-Bromo-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2'-bromo-4-biphenylyl)-4-oxo-butyric acid. Melting point of the cyclohexylamine salt: 162°-163° C.; yield: 53.4% of theory.

reactant | 4-(2'-bromo-4-biphenylyl)-4-oxo-butyric acid | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13BrO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(2'-Bromo-4-biphenylyl)-4-hydroxy-butyric acid | yield: 53.4% | BrC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15BrO3
